US05068252
4-Carboethoxy-benzylbromide
To a stirred solution of 16.09 g (78 mmol) of 1,3-dicyclohexylcarbodiimide (Aldrich) in 100 ml methylene chloride was added a suspension of 15.4 g (71 mmol) of 4-carboxybenzylbromide in 100 ml methylene chloride and then 4.9 g (106.5 mmol) of absolute ethanol and 0.81 g (7.1 mmol) of 4-dimethylaminopyridine. A further 50 ml of methylene chloride was added to the reaction mixture and mixture heated at reflux for 2 h. The mixture was allowed to cool to room temperature and the resultant white precipitate removed by filtration. The filtrate was washed with water, dried (MgSO4) and then concentrated in-vacuo to give the title compound as a colorless oil which crystallized on standing. PMR (CDCl3): δ1.39 (3H, t, J~7.2 Hz), 4.38 (2H, q, J~7.2 Hz), 4.50 (2H, s), 7.45 (2H, d, J~7.7 Hz), 8.03 (2H, d, J~7.7 Hz).

reactant | 1,3-dicyclohexylcarbodiimide | 78 mmol, 16.09 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-carboxybenzylbromide | 71 mmol, 15.4 g | C(=O)(O)C1=CC=C(CBr)C=C1 | C8H7BrO2
reactant | ethanol | 106.5 mmol, 4.9 g | C(C)O | C2H6O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 7.1 mmol, 0.81 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-Carboethoxy-benzylbromide | C(=O)(OCC)C1=CC=C(CBr)C=C1 | C10H11BrO2
